US07282501B2
Step A: 2,5-Dichloro-thiophene-3-carboxylic acid
A mixture of the 1-(2,5-dichloro-thiophen-3-yl)-ethanone (10 g, 51.26 mmol) and 9.5% NaOCl (150 mL, 230 mmol, 4.5 eq., commercial bleach) was treated with 5N NaOH (1 mL, 5 mmol, 0.1 eq.). The mixture was stirred vigorously and heated to 55° C. The internal temperature was monitored closely and heat was removed to control the exotherm. After 6 h at 61° C., starting material was completely consumed. The mixture was cooled to 0° C. and carefully quenched with 20% aq. NaHSO3 solution (20 mL). At 0° C., 6M HCl (12 mL) was added to adjust the pH to 1.5. The mixture was extracted with EtOAc (300 mL and 3×50 mL). The combined organic layers were washed with brine (200 mL), dried (Na2SO4), and concentrated to a white solid (8.8 g).

reactant | 1-(2,5-dichloro-thiophen-3-yl)-ethanone | 51.26 mmol, 10 g | ClC=1SC(=CC1C(C)=O)Cl | C6H4Cl2OS
reactant | NaOCl | 230 mmol, 150 mL, 4.5 eq. | [O-]Cl.[Na+]
reactant | NaOH | 5 mmol, 5N, 1 mL, 0.1 eq. | [OH-].[Na+]
product | 2,5-Dichloro-thiophene-3-carboxylic acid | ClC=1SC(=CC1C(=O)O)Cl | C5H2Cl2O2S
